** sch_path: CDR4176-main/schematic/xschem/8xPI/8xPI.sch
**.subckt 8xPI VINI VINIB VINQ VINQB VS[1],VS[0] VST[7],VST[6],VST[5],VST[4],VST[3],VST[2],VST[1],VST[0] VOUT VDD VSS
*.ipin VINI
*.ipin VINQ
*.ipin VINIB
*.ipin VINQB
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VS[1],VS[0]
*.ipin VST[7],VST[6],VST[5],VST[4],VST[3],VST[2],VST[1],VST[0]
x1[7] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[7] MUX_4_1
x1[6] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[6] MUX_4_1
x1[5] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[5] MUX_4_1
x1[4] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[4] MUX_4_1
x1[3] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[3] MUX_4_1
x1[2] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[2] MUX_4_1
x1[1] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[1] MUX_4_1
x1[0] VINI VINIB VDD net1 VS[1] VS[0] VINQ VSS VINQB VST[0] MUX_4_1
x2 VDD net2 net1 VSS inv_PI
x1 VDD VOUT net2 VSS buff_PI_d16
**.ends

* expanding   symbol:  CDR4176-main/schematic/xschem/MUX_4_1/MUX_4_1.sym # of pins=9
** sym_path: CDR4176-main/schematic/xschem/MUX_4_1/MUX_4_1.sym
** sch_path: CDR4176-main/schematic/xschem/MUX_4_1/MUX_4_1.sch
.subckt MUX_4_1 VINA VINB VDD VOUT VS[1] VS[0] VINC VSS VIND VST
*.opin VOUT
*.iopin VDD
*.iopin VSS
*.ipin VINA
*.ipin VINB
*.ipin VINC
*.ipin VIND
*.ipin VS[1],VS[0]
*.ipin VST
x3 VDD VINC net2 VS[1] VIND VSS MUX_2_1
x4 VDD VINA net1 VS[0] VINB VSS MUX_2_1
x5 VDD net1 VOUT VST net2 VSS MUX_2_1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI/inv_PI.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI/inv_PI.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI/inv_PI.sch
.subckt inv_PI VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.45u l=0.13u ng=3 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/buff_PI_d16/buff_PI_d16.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/buff_PI_d16/buff_PI_d16.sym
** sch_path: CDR4176-main/schematic/xschem/buff_PI_d16/buff_PI_d16.sch
.subckt buff_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv_PI_d2
x8 VDD net2 net1 VSS inv_PI_d4
x9 VDD net3 net2 VSS inv_PI_d8
x10 VDD VOUT net3 VSS inv_PI_d16
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/MUX_2_1/MUX_2_1.sym # of pins=6
** sym_path: CDR4176-main/schematic/xschem/MUX_2_1/MUX_2_1.sym
** sch_path: CDR4176-main/schematic/xschem/MUX_2_1/MUX_2_1.sch
.subckt MUX_2_1 VDD VINA VOUT VS VINB VSS
*.opin VOUT
*.ipin VINA
*.ipin VINB
*.ipin VS
*.iopin VDD
*.iopin VSS
x1 VOUT net1 VS net2 VDD VSS tg_custom
x2 VOUT VS net1 net3 VDD VSS tg_custom
x3 VDD net1 VS VSS inv
x4 VDD net2 VINA VSS inv_PI
x5 VDD net3 VINB VSS inv_PI
x6[3] VOUT VSS VDD net2 VDD VSS tg_custom
x6[2] VOUT VSS VDD net2 VDD VSS tg_custom
x6[1] VOUT VSS VDD net2 VDD VSS tg_custom
x6[0] VOUT VSS VDD net2 VDD VSS tg_custom
x7[3] VOUT VSS VDD net3 VDD VSS tg_custom
x7[2] VOUT VSS VDD net3 VDD VSS tg_custom
x7[1] VOUT VSS VDD net3 VDD VSS tg_custom
x7[0] VOUT VSS VDD net3 VDD VSS tg_custom
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI_d2/inv_PI_d2.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI_d2/inv_PI_d2.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI_d2/inv_PI_d2.sch
.subckt inv_PI_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI
x1[0] VDD VOUT VIN VSS inv_PI
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI_d4/inv_PI_d4.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI_d4/inv_PI_d4.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI_d4/inv_PI_d4.sch
.subckt inv_PI_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d2
x1[0] VDD VOUT VIN VSS inv_PI_d2
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI_d8/inv_PI_d8.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI_d8/inv_PI_d8.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI_d8/inv_PI_d8.sch
.subckt inv_PI_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d4
x1[0] VDD VOUT VIN VSS inv_PI_d4
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/inv_PI_d16/inv_PI_d16.sym # of pins=4
** sym_path: CDR4176-main/schematic/xschem/inv_PI_d16/inv_PI_d16.sym
** sch_path: CDR4176-main/schematic/xschem/inv_PI_d16/inv_PI_d16.sch
.subckt inv_PI_d16 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_PI_d8
x1[0] VDD VOUT VIN VSS inv_PI_d8
.ends


* expanding   symbol:  CDR4176-main/schematic/xschem/tg_custom/tg_custom.sym # of pins=6
** sym_path: CDR4176-main/schematic/xschem/tg_custom/tg_custom.sym
** sch_path: CDR4176-main/schematic/xschem/tg_custom/tg_custom.sch
.subckt tg_custom VOUT VSN VSP VIN VBP VBN
*.iopin VIN
*.iopin VSN
*.iopin VOUT
*.iopin VSP
*.iopin VBN
*.iopin VBP
XM1 VOUT VSN VIN VBN sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
XM2 VOUT VSP VIN VBP sg13_lv_pmos w=0.3u l=0.13u ng=2 m=1
.ends

.end
